US04652584
A solution of 11.5 ml (31.5 mmoles) of 3N NaOH solution was added to a solution of 5.8 g (15.3 m moles) of 4-[2-[3-[(1,1-dimethylethyl)amino]-2-hydroxypropoxy]phenylethynyl]benzonitrile, the product of Example 14 in 50 ml of 95% ethanol. The mixture was heated under reflux for 30 min. The solution of 25 ml of 95% ethanol and 5.0 ml of 3N aqueous NaOH was added. The mixture was heated under reflux for 15 min. The solution was cooled and the solid collected by filtration. The solid was recrystallized from 95% ethanol to give 4.38 g of 4-[[2-[3-[(1,1-dimethylethyl)amino]-2-hydroxypropoxy]phenyl]ethynyl]benzamide, mp 199°-201° C.

reactant | NaOH | 31.5 mmoles, 3N, 11.5 ml | [OH-].[Na+]
reactant | 4-[2-[3-[(1,1-dimethylethyl)amino]-2-hydroxypropoxy]phenylethynyl]benzonitrile | 5.8 g | CC(C)(C)NCC(COC1=C(C=CC=C1)C#CC1=CC=C(C#N)C=C1)O | C22H24N2O2
reactant | NaOH | 3N, 5.0 ml | [OH-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 4-[[2-[3-[(1,1-dimethylethyl)amino]-2-hydroxypropoxy]phenyl]ethynyl]benzamide | 4.38 g | CC(C)(C)NCC(COC1=C(C=CC=C1)C#CC1=CC=C(C(=O)N)C=C1)O | C22H26N2O3
